US05530015
To a mixture of 0.83 g of 3,5-dichloro-4-(3-bromo-5-trifiuoromethyl-2-pyridyloxy)phenol, 0.31 g of potassium carbonate and 20 ml of N-dimethylformamide, a solution prepared by dissolving 0.33 g of 1,1,3-trichloro-1-propene in 5 ml of N,N-dimethylformamide was added dropwise at room temperature with stirring. After stirring at room temperature for 7 hours, the reaction solution was poured into ice-water, and extracted twice with 50 ml of diethyl ether. Then, the ether layers were combined, washed with water, dried over anhydrous magnesium sulfate and then concentrated to give a crude product. This crude product was subjected to silica gel chromatography to give 0.79 g of 3,5-dichloro-4-(3-bromo-5-trifluoromethyl-2-pyridyloxy)-2-(3,3-dichloro-2-propenyloxy)benzene, yield 75%; m.p., 90.7° C.

reactant | 3,5-dichloro-4-(3-bromo-5-trifiuoromethyl-2-pyridyloxy)phenol | 0.83 g | ClC=1C=C(C=C(C1OC1=NC=C(C=C1Br)C(F)(F)F)Cl)O | C12H5BrCl2F3NO2
reactant | potassium carbonate | 0.31 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,1,3-trichloro-1-propene | 0.33 g | ClC(=CCCl)Cl | C3H3Cl3
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 3,5-dichloro-4-(3-bromo-5-trifluoromethyl-2-pyridyloxy)-2-(3,3-dichloro-2-propenyloxy)benzene | 0.79 g, yield 75% | ClC=1C(=CC=C(C1OC1=NC=C(C=C1Br)C(F)(F)F)Cl)OCC=C(Cl)Cl | C15H7BrCl4F3NO2
